US07754737B2
Step 1. (S)-methyl 3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoate
A mixture of mono-methyl isophthalate (0.3230 g, 1.79 mmol, 1.0 equiv), 2-(trimethylsilyl)ethyl (S)-2-amino-3-cyclohexylpropylmethylcarbamate (0.5573 g, 1.77 mmol, 0.99 equiv), EDC (0.6200 g, 1.8 equiv), HOBT (0.4035 g, 1.66 equiv), and DIEA (3.6 mL, 11 equiv) in CH2Cl2 (20 mL) was stirred at rt for 18 h. The reaction mixture was quenched with 10% aq Na2CO3, extracted with CH2Cl2 and dried over Na2SO4. After the solvent was removed, the crude (S)-methyl 3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoate (1.397 g) was used in the next step without further purification. LC-MS (3 min) tR=2.29 min, m/z 499 (M+Na+), 449, 359.

reactant | mono-methyl isophthalate | 1.79 mmol, 0.3230 g, 1.0 equiv | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | 2-(trimethylsilyl)ethyl (S)-2-amino-3-cyclohexylpropylmethylcarbamate | 1.77 mmol, 0.5573 g, 0.99 equiv | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C16H34N2O2Si
reactant | EDC | 0.6200 g, 1.8 equiv
reactant | HOBT | 0.4035 g, 1.66 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 3.6 mL, 11 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoate | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C25H40N2O5Si
